US08609849B1
3-(2-Fluoro-phenyl)-3-hydroxy-2,2-dimethyl-propionitrile.
To a stirring solution of diisopropylamine (2.27 mL, 16.1 mmol) in tetrahydrofuran (60 mL) at −20° C. under nitrogen was added a solution of n-butyllithium (7.1 mL, 17.7 mmol, 2.5 M in hexane). After the addition was complete, the mixture was cooled to −70° C., isobutyryl nitrile (1.46 mL, 16.1 mmol) was added and the reaction mixture was then warmed to −10° C. After 10 minutes, 2-fluoro-benzaldehyde (1.70 mL, 16.1 mmol) was added and the resulting solution was allowed to warm to ambient temperature. After one hour at ambient temperature, water (5 mL) was added to the reaction mixture and it was concentrated at reduced pressure. The resulting crude product was diluted with ethyl acetate (125 mL), washed with water (75 mL) followed by saturated aqueous sodium chloride (50 mL) and the organic layer was concentrated at reduced pressure to give the product as a colorless oil (3.1 g, ˜100%). 1H NMR (CDCl3) δ 7.70 (m, 1H), 7.35 (m, 1H), 7.22 (m, 1H), 7.04 (m, 1H), 4.99 (br s, 1H), 2.42 (br s, 1H), 1.24 (s, 6H).

reactant | diisopropylamine | 16.1 mmol, 2.27 mL | C(C)(C)NC(C)C | C6H15N
reactant | n-butyllithium | 17.7 mmol, 2.5 M, 7.1 mL | C(CCC)[Li]
reactant | 2-fluoro-benzaldehyde | 16.1 mmol, 1.70 mL | FC1=C(C=O)C=CC=C1 | C7H5FO
reactant | water | 5 mL | O | H2O
solvent | tetrahydrofuran | 60 mL | O1CCCC1 | C4H8O
product | 3-(2-Fluoro-phenyl)-3-hydroxy-2,2-dimethyl-propionitrile | 3.1 g, ~100% | FC1=C(C=CC=C1)C(C(C#N)(C)C)O | C11H12FNO
